US07531532B2
To a solution of crude 1-benzhydrylazetidine-3-carboxylic acid methylamide (2.72 g) in methanol (200 ml) were added hydrochloric acid (3.0 ml) and 20% palladium hydroxide carbon (1.0 g), followed by stirring under hydrogen atmosphere (0.40 MPa) for 5 hours. The reaction mixture was filtered to remove the catalyst, which was washed with methanol, and the filtrate was concentrated. To the resultant residue was added hexane, allowed to stand for a while, the supernatant was removed using a pipette. The remain was evaporated to provide a crude product of azetidine-3-carboxylic acid methylamide hydrochloride (ESI-MS (m/z): 115[M+H]+). To the crude product was added water (20 ml), followed by stirring in an ice water bath, and to the reaction mixture were added tetrahydrofuran (10 ml), di-tert-butyl dicarbonate (2.34 g) and sodium hydrogencarbonate (2.25 g), followed by stirring at room temperature for 12.5 hours. The reaction mixture was partitioned between ethyl acetate (200 ml) and brine (50 ml). The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resultant residue was purified by silica gel column chromatography (eluent; heptane:ethyl acetate=1:1 to 1:2, ethyl acetate, then ethyl acetate:methanol=10:1 to 5:1) to provide the titled compound (696 mg) as colorless crystals.

reactant | 1-benzhydrylazetidine-3-carboxylic acid methylamide | 2.72 g | CNC(=O)C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H20N2O
reactant | hydrochloric acid | 3.0 ml | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
catalyst | palladium hydroxide carbon | 1.0 g | [C+4].[OH-].[Pd+2].[OH-].[OH-].[OH-].[OH-].[OH-]
product | azetidine-3-carboxylic acid methylamide hydrochloride | Cl.CNC(=O)C1CNC1 | InChI=1S/C5H10N2O.ClH/c1-6-5(8)4-2-7-3-4;/h4,7H,2-3H2,1H3,(H,6,8);1H
